US07691877B2
{2-Amino-3-nitro-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyridin-4-yl}-benzyl-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 70, using 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (201 mg), (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (200 mg) and palladium bis(triphenylphosphine)dichloride (71 mg), giving the product (174 mg) as a yellow gum.

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 201 mg | C[Si](CCOCN1C=NC=C1)(C)C | C9H18N2OSi
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 200 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H15BrN4O4
catalyst | palladium bis(triphenylphosphine)dichloride | 71 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
product | {2-Amino-3-nitro-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyridin-4-yl}-benzyl-carbamic acid ethyl ester | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)C=1N(C=CN1)COCC[Si](C)(C)C)N)[N+](=O)[O-])=O | C24H32N6O5Si
